US09371320B2
A) 4-(4-bromophenyl)morpholin-3-one
To a mixture of morpholin-3-one (100 mg), 1-bromo-4-iodobenzene (282 mg), cesium carbonate (326 mg) and N1,N2-dimethylethane-1,2-diamine (9 mg) in DMF (2 mL) was added copper(I) iodide (10 mg) at room temperature under nitrogen atmosphere. The reaction mixture was stirred under microwave irradiation at 100° C. for 30 min. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (210 mg).

reactant | morpholin-3-one | 100 mg | N1C(COCC1)=O | C4H7NO2
reactant | 1-bromo-4-iodobenzene | 282 mg | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | cesium carbonate | 326 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N1,N2-dimethylethane-1,2-diamine | 9 mg | CNCCNC | C4H12N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | copper(I) iodide | 10 mg | [Cu]I
solvent | water | O | H2O
product | 4-(4-bromophenyl)morpholin-3-one | 210 mg | BrC1=CC=C(C=C1)N1C(COCC1)=O | C10H10BrNO2
